US09034895B2
(2-methyl-1-(2-morpholino ethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)(4-methylnaphthalen-1-yl)methanone (CBX003)
To a solution of 4-methyl-1-naphthoyl chloride (112 mg, 0.55 mmol) and 4-(2-(2-methyl-1H-pyrrolo[2,3-b]pyridin-1-yl)ethyl)morpholine (143 mg, 0.59 mmol) in 2.5 mL CH2Cl2 at −70° C. was added dropwise ethyl aluminum dichloride (0.67 mL, 1.21 mmol, 1.8 M in toluene). The reaction mixture was allowed to slowly warm to room temperature overnight. The reaction mixture was then partitioned between ethyl acetate and cold H2O, and the aqueous layer extracted twice with ethyl acetate. The combined organic extract was washed successively with H2O, 10% K2CO3, and brine, dried over MgSO4, filtered, and concentrated in vacuo. The crude product was purified via silica gel chromatography using a gradient from 0 to 5% MeOH in CH2Cl2, then taken up in CHCl3 and washed with a saturated solution of Na2CO3, dried over Na2SO4, filtered, and concentrated in vacuo to give CBX003(32 mg, 0.077 mmol). 1H NMR (500 MHz, CDCl3, δ): 2.46-2.58 (m, 4H), 2.60 (s, 3H), 2.78 (t, J=6.8 Hz, 2H), 2.81 (s, 3H), 3.69 (t, J=4.5 Hz, 4H), 4.47 (t, J=6.8 Hz, 2H), 6.91-7.02 (m, 1H), 7.38 (d, J=7.2 Hz, 1H), 7.43 (dd, J=7.9 Hz, 1.4 Hz, 1H), 7.45-7.52 (m, 2H), 7.58 (td, J=7.6 Hz, 1.1 Hz, 1H), 8.11 (d, J=8.4 Hz, 1H), 8.16 (d, J=8.4 Hz, 1H), 8.26 (dd, J=4.7 Hz, 1.5 Hz, 1H). 13C NMR (500 MHz, CDCl3, δ): 12.83, 19.93, 39.55, 53.99, 57.68, 66.93, 113.29, 118.10, 119.85, 124.42, 125.76, 125.78, 126.06, 126.24, 126.66, 129.10, 130.36, 132.90, 137.15, 138.40, 143.02, 146.42, 147.59, 193.21. MS m/z 415.5 [M+H]+.

reactant | 4-methyl-1-naphthoyl chloride | 0.55 mmol, 112 mg | CC1=CC=C(C2=CC=CC=C12)C(=O)Cl | C12H9ClO
reactant | 4-(2-(2-methyl-1H-pyrrolo[2,3-b]pyridin-1-yl)ethyl)morpholine | 0.59 mmol, 143 mg | CC1=CC=2C(=NC=CC2)N1CCN1CCOCC1 | C14H19N3O
reactant | ethyl aluminum dichloride | 1.21 mmol, 1.8 M, 0.67 mL | [Cl-].[Cl-].C(C)[Al+2]
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
product | (2-methyl-1-(2-morpholino ethyl)-1H-pyrrolo[2,3-b]pyridin-3-yl)(4-methylnaphthalen-1-yl)methanone | CC1=C(C=2C(=NC=CC2)N1CCN1CCOCC1)C(=O)C1=CC=C(C2=CC=CC=C12)C | C26H27N3O2
